US07300946B2
Step C Synthesis of 4-(trifluoromethylphenyl)-4-pyridylmethanol as an intermediate
A solution of 4-bromobenzotrifluoride in 62 mL of THF was carefully added to a mixture of 1.9 grams (0.079 mole) of magnesium turnings and an iodine crystal (catalyst), during a period of 60 minutes while maintaining the reaction mixture at a temperature of no higher than 40° C. After this time, the reaction mixture was stirred and a solution of 5.0 grams (0.047 mole) of 4-pyridinecarboxaldehyde in 45 mL of THF was added dropwise. Upon completion of addition, the reaction mixture was stirred at ambient temperature for about 16 hours. The reaction mixture was then cooled to 0° C. and a sufficient amount of an aqueous solution saturated with ammonium chloride was added to quench the reaction. The mixture was then extracted with ethyl acetate, and the extract was washed with an aqueous solution saturated with sodium chloride. The extract was dried with sodium sulfate, filtered, and concentrated under reduced pressure, yielding about 15.2 grams of crude product.

reactant | 4-bromobenzotrifluoride | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | magnesium | 0.079 mole, 1.9 grams | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-pyridinecarboxaldehyde | 0.047 mole, 5.0 grams | N1=CC=C(C=C1)C=O | C6H5NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 62 mL | C1CCOC1 | C4H8O
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | 4-(trifluoromethylphenyl)-4-pyridylmethanol | about 15.2 grams | FC(F)(F)C1=C(C=CC=C1)C1(CC=NC=C1)CO | C13H12F3NO
